### PR TITLE
[Merged by Bors] - feat: port Data.Typevec

### PR DESCRIPTION
**Pull request by j-loreaux**
mathlib3 SHA: 39af7d3bf61a98e928812dbc3e16f4ea8b795ca3

porting notes: currently this is full of major issues. Help welcome

### CODE REVIEW

**Comment by alexkeizer** [comment]
I actually have a manual port of this (and a bunch of other QPF-related mathlib) files at https://github.com/alexkeizer/qpf4. It's fairly messy, since it also contains a lot of new developments, but it should serve as a good basis for porting efforts!

**Comment by alexkeizer** [comment]
The port should now be good to go; it builds and passes all lints (locally, at least)

**Comment by alexkeizer** [comment]
Actually, @j-loreaux a quick question about naming: I noticed you used `MVFunctor`, but I translated that as `MvFunctor` (for Multivariate Functor, multivariate being one word).
I didn't want to uni-laterally change this, but I reckon its good to settle this before it gets merged, especially since the multivariate prefix comes up a few more times in dependent files.

**Comment by j-loreaux** [comment]
I guess that's a Zulip question. I don't have a strong preference. Thanks for adopting this PR!

**Comment by alexkeizer** [comment]
(Zulip)[https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Naming.20clarification/near/315835997] didn't have a strong preference either, so I'm going to go ahead and change it to `MvFunctor`

File: Mathlib/Data/TypeVec.lean [hunk 1]
```diff
@@ -0,0 +1,879 @@
...
+namespace TypeVec
+
+variable {n : ℕ}
+
+/-- arrow in the category of `TypeVec` -/
+def Arrow (α β : TypeVec n) :=
+  ∀ i : Fin2 n, α i → β i
+#align typevec.arrow TypeVec.Arrow
+
+-- mathport name: typevec.arrow
```
Comment (semorrison) [inline Mathlib/Data/TypeVec.lean:60]:
```suggestion
```

File: Mathlib/Data/TypeVec.lean [hunk 2]
```diff
@@ -0,0 +1,879 @@
...
+  | Fin2.fz => g
+#align typevec.split_fun TypeVec.splitFun
+
+/-- append an arrow and a function as well as their respective source and target types / typevecs -/
+def appendFun {α α' : TypeVec n} {β β' : Type _} (f : α ⟹ α') (g : β → β') :
+    append1 α β ⟹ append1 α' β' :=
+  splitFun f g
+#align typevec.append_fun TypeVec.appendFun
+
+-- mathport name: typevec.append_fun
```
Comment (semorrison) [inline Mathlib/Data/TypeVec.lean:165]:
```suggestion
```

File: Mathlib/Data/TypeVec.lean [hunk 3]
```diff
@@ -0,0 +1,879 @@
...
+
+-- mathport name: «expr♯ »
+-- local prefix:0 "♯" => cast (by try simp <;> congr 1 <;> try simp)
+
+/-- cases distinction for 0-length type vector -/
+protected def casesNil {β : TypeVec 0 → Sort _} (f : β Fin2.elim0) : ∀ v, β v
+  := fun v => cast (by congr; funext i; cases i) f
+#align typevec.cases_nil TypeVec.casesNil
+
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
```
[the remark this answers is not in the document]
Comment (semorrison) [reply Mathlib/Data/TypeVec.lean:333]: And below.

File: Mathlib/Data/TypeVec.lean [hunk 4]
```diff
@@ -0,0 +1,879 @@
...
+theorem appendFun_id_id {α : TypeVec n} {β : Type _} :
+    (@TypeVec.id n α ::: @_root_.id β) = TypeVec.id :=
+  eq_of_drop_last_eq rfl rfl
+#align typevec.append_fun_id_id TypeVec.appendFun_id_id
+
+instance subsingleton0 : Subsingleton (TypeVec 0) :=
+  ⟨fun a b => funext fun a => by apply Fin2.elim0 a⟩ -- porting note: `by apply` necessary?
+#align typevec.subsingleton0 TypeVec.subsingleton0
+
+/- porting note: just omitting this `simp` attribute declaration for now
```
Comment (semorrison) [inline Mathlib/Data/TypeVec.lean:317]: Why?

If we do this, there should be porting notes on the `-- @[typevec]` below, so we can find them again later.

File: Mathlib/Data/TypeVec.lean (hunk 2 above)
Comment (semorrison) [reply Mathlib/Data/TypeVec.lean:165]: and below.

Comment (alexkeizer) [reply Mathlib/Data/TypeVec.lean]: Removed all `mathport` comments

File: Mathlib/Data/TypeVec.lean (hunk 4 above)
Comment (alexkeizer) [reply Mathlib/Data/TypeVec.lean]: I managed to get the simp attribute working, but had to put it in a separate file (Data.TypeVec.Attr); if I kept the declaration in the original file, it complained that `typevec` is not an attribute on the lower lines.

It seems a bit overkill to have a file for just defining this single attribute, are there any conventions on where to put it otherwise?

File: Mathlib/Data/TypeVec.lean [hunk 5]
```diff
@@ -0,0 +1,879 @@
...
+#align typevec.prod_id TypeVec.prod_id
+
+theorem append_prod_appendFun  {n}
+                                {α α' β β' : TypeVec.{u} n}
+                                {φ φ' ψ ψ' : Type u}
+                                {f₀ : α ⟹ α'}
+                                {g₀ : β ⟹ β'}
+                                {f₁ : φ → φ'}
+                                {g₁ : ψ → ψ'} :
+        ((f₀ ⊗' g₀) ::: (_root_.Prod.map f₁ g₁)) = ((f₀ ::: f₁) ⊗' (g₀ ::: g₁)) :=
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply Mathlib/Data/TypeVec.lean:704]: Do you mean the original produced by mathport was bad, or that the formatting as it currently is, is bad?

File: Mathlib/Data/TypeVec.lean [hunk 6]
```diff
@@ -0,0 +1,862 @@
...
+#align typevec.cases_nil TypeVec.casesNil
+
+/-- cases distinction for (n+1)-length type vector -/
+protected def casesCons (n : ℕ) {β : TypeVec (n + 1) → Sort _}
+                        (f : ∀ (t) (v : TypeVec n), β (v ::: t)) :
+    ∀ v, β v :=
+  fun v : TypeVec (n + 1) => cast (by simp) (f v.last v.drop)
+#align typevec.cases_cons TypeVec.casesCons
+
+protected theorem cases_nil_append1 {β : TypeVec 0 → Sort _} (f : β Fin2.elim0) :
```
Comment (jcommelin) [inline Mathlib/Data/TypeVec.lean:330]:
```suggestion
protected theorem casesNil_append1 {β : TypeVec 0 → Sort _} (f : β Fin2.elim0) :
```

File: Mathlib/Data/TypeVec.lean [hunk 7]
```diff
@@ -0,0 +1,862 @@
...
+    TypeVec.casesNil f Fin2.elim0 = f :=
+  rfl
+#align typevec.cases_nil_append1 TypeVec.cases_nil_append1
+
+protected theorem cases_cons_append1  (n : ℕ) {β : TypeVec (n + 1) → Sort _}
```
Comment (jcommelin) [inline Mathlib/Data/TypeVec.lean:335]:
```suggestion
protected theorem casesCons_append1  (n : ℕ) {β : TypeVec (n + 1) → Sort _}
```

File: Mathlib/Data/TypeVec.lean [hunk 8]
```diff
@@ -0,0 +1,862 @@
...
+def typevecCasesCons₂ (n : ℕ) (t t' : Type _) (v v' : TypeVec n)
+                      {β : (v ::: t) ⟹ (v' ::: t') → Sort _}
+    (F : ∀ (f : t → t') (fs : v ⟹ v'), β (fs ::: f)) : ∀ fs, β fs := by
+  intro fs
+  rw [← split_dropFun_lastFun fs]
+  apply F
+#align typevec.typevec_cases_cons₂ TypeVec.typevecCasesCons₂
+
+
+theorem typevec_cases_nil₂_appendFun {β : Fin2.elim0 ⟹ Fin2.elim0 → Sort _} (f : β nilFun) :
```
Comment (jcommelin) [inline Mathlib/Data/TypeVec.lean:384]:
```suggestion
theorem typevecCasesNil₂_appendFun {β : Fin2.elim0 ⟹ Fin2.elim0 → Sort _} (f : β nilFun) :
```

File: Mathlib/Data/TypeVec.lean [hunk 9]
```diff
@@ -0,0 +1,862 @@
...
+    typevecCasesNil₂ f nilFun = f :=
+  rfl
+#align typevec.typevec_cases_nil₂_append_fun TypeVec.typevec_cases_nil₂_appendFun
+
+theorem typevec_cases_cons₂_appendFun (n : ℕ) (t t' : Type _) (v v' : TypeVec n)
```
Comment (jcommelin) [inline Mathlib/Data/TypeVec.lean:389]:
```suggestion
theorem typevecCasesCons₂_appendFun (n : ℕ) (t t' : Type _) (v v' : TypeVec n)
```

File: Mathlib/Data/TypeVec.lean (hunk 6 above)
Comment (alexkeizer) [reply Mathlib/Data/TypeVec.lean]: Thanks for catching, I fixed the naming!

A question about procedure, should I resolve a conversation when I apply the suggested fix to get them out of the way, or is it best to leave them for the reviewer, so they can check I indeed fixed it as intended?

Comment (jcommelin) [reply Mathlib/Data/TypeVec.lean]: In the case of naming suggestions, please resolve yourself. If there's more of a discussion going on, then please leave it open until both sides agree that the discussion is resolved.

File: Mathlib/Data/TypeVec.lean [hunk 10]
```diff
@@ -309,13 +310,9 @@ instance subsingleton0 : Subsingleton (TypeVec 0) :=
...
-/- porting note: just omitting this `simp` attribute declaration for now
-run_cmd
-  do
-    mk_simp_attr `typevec
-    tactic.add_doc_string `simp_attr.typevec
-      "simp set for the manipulation of typevec and arrow expressions"
--/
+-- /- porting note: just omitting this `simp` attribute declaration for now
+
+-- -/
```
Comment (jcommelin) [inline Mathlib/Data/TypeVec.lean:315]:
```suggestion
-- Porting note: `simp` attribute `typevec` moved to file `Data/TypeVec/Attr.lean`
```

**Comment by jcommelin** [comment]
One more comment. Otherwise, LGTM.

bors d+

File: Mathlib/Data/TypeVec.lean (hunk 4 above)
Comment (jcommelin) [reply Mathlib/Data/TypeVec.lean]: I think putting it in a new file is fine.

**Comment by alexkeizer** [comment]
> One more comment. Otherwise, LGTM.
> 
> bors d+

Could you delegate it to me (I adopted this PR, but am not the original author), or just go ahead and merge it!

**Comment by alexkeizer** [comment]
bors merge
